US08349836B2
4-{2-[(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-4-trifluoromethyl-phenyl}-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 6-bromo-4-chloro-2H-phthalazin-1-one (183 mg, 0.70 mmol), 4-(2-aminomethyl-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (230 mg, 0.64 mmol), Pd2(dba)3 (59 mg, 0.064 mmol), BINAP (120 mg, 0.19 mmol) and NaOt-Bu (180 mg, 1.92 mmol) in DMA (10 mL) was purged with nitrogen for 10 min. The mixture was heated at 90° C. for 5 h. The mixture was allowed to cool and diluted with ethyl acetate (30 mL) and washed with ammonium chloride (25 mL). The organic layer was dried and concentrated. Chromatography on silica yielded the title compound (25 mg) m/z (M+H)=538.90.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.70 mmol, 183 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 4-(2-aminomethyl-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.64 mmol, 230 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)CN | C17H24F3N3O2
reactant | BINAP | 0.19 mmol, 120 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.92 mmol, 180 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.064 mmol, 59 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{2-[(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-4-trifluoromethyl-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 25 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)CNC=1C=C2C(=NNC(C2=CC1)=O)Cl | C25H27ClF3N5O3
